US04508651
A solution of 200.0 mg (0.679 mmol) of [1R-[1α-(1R*,2E,4S*),3aβ,7aα]]-octahydro-1-(5-hydroxy-1,4,5-trimethyl-2-hexenyl)-7a-methyl-4H-inden-4-one in 10 mL of dry methylene chloride was treated with 0.4 mL (2.726 mmol) of N-(trimethylsilyl)imidazole and the resulting mixture stirred at room temperature, under argon, for 18 hours. It was then treated with 1 mL of water, stirred for an additional 30 minutes then diluted with methylene chloride. The organic phase was separated, washed with water and brine, dried and evaporated to dryness. The residue obtained was purified by rapid filtration through a short silica gel column, eluted with hexane-ethyl acetate (5:1) to give 214.0 mg (84% yield) of pure [1R-[1α-(1R*,2E,4S*),3aβ,7aα]]-octahydro-1-(1,4,5-trimethyl-5-trimethylsilyloxy-2-hexenyl)-7a-methyl-4H-inden-4-one, as a thick, colorless oil.

reactant | octahydro-1-(5-hydroxy-1,4,5-trimethyl-2-hexenyl)-7a-methyl-4H-inden-4-one | OC(C(C=CC(C)C1CCC2C(CCCC12C)=O)C)(C)C | C19H32O2
reactant | N-(trimethylsilyl)imidazole | 2.726 mmol, 0.4 mL | C[Si](N1C=NC=C1)(C)C | C6H12N2Si
reactant | water | 1 mL | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | octahydro-1-(1,4,5-trimethyl-5-trimethylsilyloxy-2-hexenyl)-7a-methyl-4H-inden-4-one | 84% yield | CC(C=CC(C(C)(O[Si](C)(C)C)C)C)C1CCC2C(CCCC12C)=O | C22H40O2Si
